US07417047B2
Preparation of 3-[(3-{4-[5-Acetyl-1-(3-fluoropropyl)-1H-pyrrol-3-yl]-2-amino-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}phenoxy)methyl]benzamide
A mixture of 5-[5-acetyl-1-(3-fluoropropyl)-1H-pyrrol-3-yl]-2-amino-5-(3-hydroxyphenyl)-3-methyl-3,5-dihydro-4H-imidazol-4-one, 3-(chloromethyl)benzamide, sodium iodide, and cesium carbonate in dimethylformamide was heated to 45° C. for 16 hours. The cooled reaction mixture was poured into ethyl acetate and washed with water. The organic phase was dried over sodium sulfate and evaporated. The resultant residue was purified by HPLC using a CN bonded phase preparative column and by precipitation from hexane to give the title product as a white solid, identified by NMR and mass spectral analyses.

reactant | 5-[5-acetyl-1-(3-fluoropropyl)-1H-pyrrol-3-yl]-2-amino-5-(3-hydroxyphenyl)-3-methyl-3,5-dihydro-4H-imidazol-4-one | C(C)(=O)C1=CC(=CN1CCCF)C1(C(N(C(=N1)N)C)=O)C1=CC(=CC=C1)O | C19H21FN4O3
reactant | 3-(chloromethyl)benzamide | ClCC=1C=C(C(=O)N)C=CC1 | C8H8ClNO
reactant | sodium iodide | [I-].[Na+]
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(3-{4-[5-Acetyl-1-(3-fluoropropyl)-1H-pyrrol-3-yl]-2-amino-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}phenoxy)methyl]benzamide | C(C)(=O)C1=CC(=CN1CCCF)C1(N=C(N(C1=O)C)N)C=1C=C(OCC=2C=C(C(=O)N)C=CC2)C=CC1 | C27H28FN5O4
